US08937080B2
Step b: 4-Chloro-6-(4-methoxybenzyloxy)-2-phenylpyrimidine (6b)
NaH (60%) (469 mg, 11.73 mmol) was added in portions to a stirred solution of 4,6-dichloro-2-phenyl-pyrimidine (2.2 g, 9.78 mmol) and 4-methoxy benzyl alcohol (1.62 mg, 11.73 mmol) in dry THF (55 ml) at 0° C. After 1.5 h, NaHCO3 (aq) was added. Some solvent was evaporated and the residue was extracted with DCM, dried (MgSO4), filtered and evaporated to give the title compound, (3.19 g, 100%), MS (M+H)+327.

reactant | NaH | 11.73 mmol, 469 mg | [H-].[Na+]
reactant | 4,6-dichloro-2-phenyl-pyrimidine | 9.78 mmol, 2.2 g | ClC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
reactant | 4-methoxy benzyl alcohol | 11.73 mmol, 1.62 mg | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 55 ml | C1CCOC1 | C4H8O
product | 4-Chloro-6-(4-methoxybenzyloxy)-2-phenylpyrimidine | 3.19 g, 100% | ClC1=NC(=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C18H15ClN2O2
